US05919793
A solution of 4-(2-methoxyethoxy)phenol in toluene (350 ml) was added to a solution of magnesium methoxide in methanol (8% by weight solution, 331 mls), under an atmosphere of argon. The reaction mixture was heated at reflux for 2 hours. Toluene (350 mls) was added and the reaction mixture distilled at atmospheric pressure until the internal temperature reached 92° C. A mixture of paraformaldehyde in toluene (300 ml) was added to the reaction mixture and the reaction mixture was heated at reflux for 3.5 hours. The mixture was cooled to ambient temperature and then stirred at ambient temperature for 18 hours. The reaction mixture was diluted with toluene (400 ml), washed with 2M aqueous hydrochloric acid (2×150 ml) and water (to pH 1). The residue was distilled under vacuum to give 2-hydroxy-5-(2-methoxyethoxy)benzaldehyde as an oil (35 g), bp 104-130° C. [0.01 mm Hg]; NMR(CDCl3): 3.45(3H,s), 3.75(2H,m), 4.12(2H,m), 6.92(1H,d), 7.05(1H,d), 7.2(1H,dd), 9.84(1H,s) and 10.63(1H,s); m/z 197(M+H).

reactant | 4-(2-methoxyethoxy)phenol | COCCOC1=CC=C(C=C1)O | C9H12O3
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 331 mls | CO | CH4O
solvent | Toluene | 350 mls | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-5-(2-methoxyethoxy)benzaldehyde | 35 g | OC1=C(C=O)C=C(C=C1)OCCOC | C10H12O4
